US06586475B1
1-(4-Biphenylylmethyl)-1,6-dihydro-6-oxo-N-(2-piperidinoethyl)-3-pyridinecarboxamide
To a solution of 1-(2-aminoethyl)piperidine (260 mg) in acetonitrile (5 ml)/THF (10 ml) were added 1-(4-biphenylylmethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid (500 mg), WSC (380 mg), HOBt (260 mg), and triethylamine (0.7 ml) at room temperature. After stirring at room temperature for 12 hr, the reaction mixture was diluted with 5% aqueous potassium carbonate and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride sequentially, dried, and concentrated. The residue was purified by alumina column chromatography (eluent; THF) and recrystallized from ethyl acetate/diisopropyl ether to obtain the titled compound (410 mg).

reactant | 1-(2-aminoethyl)piperidine | 260 mg | NCCN1CCCCC1 | C7H16N2
reactant | 1-(4-biphenylylmethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid | 500 mg | C1(=CC=C(C=C1)CN1C=C(C=CC1=O)C(=O)O)C1=CC=CC=C1 | C19H15NO3
reactant | WSC | 380 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 260 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(4-Biphenylylmethyl)-1,6-dihydro-6-oxo-N-(2-piperidinoethyl)-3-pyridinecarboxamide | 410 mg | C1(=CC=C(C=C1)CN1C=C(C=CC1=O)C(=O)NCCN1CCCCC1)C1=CC=CC=C1 | C26H29N3O2
